### ISSUE TITLE
Gallery integrity: erdos-1087 axiom is kernel-inconsistent (junk placeholder def)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#42264]
## Integrity Issue

**Proof**: erdos-1087 (Erdos Problem #1087: Degenerate Quadruples in Point Sets)
**File**: `proofs/Proofs/Erdos1087Problem.lean`
**Problem**: The axiom `erdos_purdy_lower_bound` is inconsistent with the file's own definitions — `False` is derivable in the kernel.

## Evidence

`maxDegenerateQuadruples` is defined as a junk placeholder that ignores its input:

```lean
noncomputable def maxDegenerateQuadruples (n : ℕ) : ℕ :=
  -- This is the supremum over all n-point configurations
  -- Formalized as an axiom since computing this is intractable
  0  -- placeholder

noncomputable def f (n : ℕ) : ℕ := maxDegenerateQuadruples n
```

So `f n` is *definitionally* `0` for every `n`. But the axiom asserts a positive lower bound:

```lean
axiom erdos_purdy_lower_bound :
    ∃ c : ℝ, c > 0 ∧ ∀ n : ℕ, n ≥ 4 →
      (f n : ℝ) ≥ c * (n : ℝ)^3 * Real.log n
```

For `n = 4`, `c > 0`, `(4:ℝ)^3 > 0`, and `Real.log 4 > 0`, so the RHS is strictly positive, while `f 4 = 0` by `rfl`. This makes the axiom set kernel-inconsistent — I confirmed this compiles cleanly (no `sorry`, no errors) via `docker-build.sh`:

```lean
import Proofs.Erdos1087Problem
open Erdos1087

theorem erdos1087_axiom_is_false : False := by
  obtain ⟨c, hc, h⟩ := erdos_purdy_lower_bound
  have h4 := h 4 (by norm_num)
  have hf : f 4 = 0 := rfl
  rw [hf] at h4
  have hlog : Real.log 4 > 0 := Real.log_pos (by norm_num)
  have : (0:ℝ) ≥ c * (4:ℝ)^3 * Real.log 4 := by exact_mod_cast h4
  nlinarith [mul_pos (mul_pos hc (by norm_num : (0:ℝ) < (4:ℝ)^3)) hlog]
```

Result: **builds successfully** — `False` is a theorem of this file's axiom system. This is the same class of bug as erdos-459/606/558/548/546/556/394/271/454/1054 (junk-value stand-in combined with an unconditional axiom about the "real" quantity → inconsistency), not a merely-unproven-but-sound axiomatization.

The main theorem `erdos_1087` and the `f(n)` API surface both silently rely on this inconsistent pair, so *anything* is provable about `f` from these axioms — `erdos_purdy_upper_bound` (the `n^{7/2}` bound) is comparatively harmless since `f n = 0` trivially satisfies an upper bound, but the pairing as stated is unsound.

**meta.json** currently just says: "Axiomatized Bounds: The Erdos-Purdy bounds are stated as axioms since their proofs require advanced techniques" — this does not disclose that the axiom is actually inconsistent with the file's own `f` definition, not merely unproven.

## Recommended Fix

`maxDegenerateQuadruples`/`f` need to stop being a concrete `def := 0` placeholder while an unconditional axiom asserts a positive lower bound on it. Options:
1. Make `f` itself an `axiom`/opaque declaration (or a `Classical.choice`-style ∃-witness) with no reduction to a concrete junk value, so the lower/upper bound axioms are not contradicted by a `rfl` computation.
2. Or drop the placeholder `def ... := 0` and instead axiomatize `f` as satisfying both bounds directly (still 2 axioms, but consistent).

Either way this needs a real Lean-source fix, not just a meta.json reword — filing for the mechanic to pick up.

---
Discovered during gallery integrity audit.
